US04034088
Acetone (200 cc.) is added to a solution of 7-amino-2-carboxy-3-[(1-methyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene (18.4 g.) in water (110 cc.) and sodium bacarbonate (9.41 g). The mixture is cooled to about 4° C., and (2-mesyl-imidazol-1-yl)-acetyl chloride (12.4 g.) in acetone (50 cc.) is added dropwise while keeping the pH at 7 by adding a saturated aqueous solution of sodium bicarbonate. After having allowed reaction to take place for 1 hour, the acetone is removed under reduced pressure (20 mm.Hg). The pH is brought to 2.5 by adding 6 N hydrochloric acid; a solid precipitates. Ethyl acetate (100 cc.) is added, the mixture is stirred, and then the solid is filtered off and washed with ethyl acetate (500 cc.). The combined organic filtrates are dried over sodium sulphate and concentrated to dryness under reduced pressure (20 mm.Hg). A residue (8.7 g.) is obtained and is taken up in a saturated aqueous solution of sodium bicarbonate (100 cc.). The aqueous phase is washed with ethyl acetate (100 cc.) and then acidified to pH 5 by adding 6 N hydrochloric acid; a slight amount of insoluble matter is filtered off and then the filtrate is acidified to pH 2.5: a product precipitates. Extraction is effected using ethyl acetate (800 cc.), and the organic extracts are dried over sodium sulphate and concentrated to dryness under reduced pressure (20 mm.Hg). The residue is stirred with acetonitrile (40 cc.) and the solid formed is collected to yield 2-carboxy-7-[(2-mesyl-imidazol-1-yl)-acetamido] -3-[(1-methyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-8-oxo-5-thia-1-azabicyclo[4,2,0]oct-2-ene (1.08 g.), m.p. approx. 230° C., [α]D20 = -42°± 1 (c= 0.87, dimethylformamide).

reactant | 7-amino-2-carboxy-3-[(1-methyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene | 18.4 g | NC1C2SCC(=C(N2C1=O)C(=O)O)CSC1=NN=NN1C | C10H12N6O3S2
reactant | (2-mesyl-imidazol-1-yl)-acetyl chloride | 12.4 g | S(=O)(=O)(C)C=1N(C=CN1)CC(=O)Cl | C6H7ClN2O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 100 cc | C([O-])(O)=O.[Na+]
solvent | water | 110 cc | O | H2O
solvent | sodium | 9.41 g | [Na] | Na
solvent | acetone | 50 cc | CC(=O)C | C3H6O
solvent | Acetone | 200 cc | CC(=O)C | C3H6O
product | 2-carboxy-7-[(2-mesyl-imidazol-1-yl)-acetamido] -3-[(1-methyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-8-oxo-5-thia-1-azabicyclo[4,2,0]oct-2-ene | 1.08 g | C(=O)(O)C=1N2C(C(C2SCC1CSC1=NN=NN1C)NC(CN1C(=NC=C1)S(=O)(=O)C)=O)=O | C16H18N8O6S3
